US06673799B1
trans-4-(2,5-Dimethylpiperazin-1-yl)-2-methoxybenzonitrile
A 1.35 g portion of potassium tert-butoxide and 0.48 ml of methanol were added to 5 ml of THF, and the mixture was stirred for 30 minutes. Next, this was mixed with 934 mg of trans-4-(2,5-dimethylpiperazin-1-yl)-2-fluorobenzonitrile synthesized in Reference Example 14 and stirred at room temperature for 2 days. This was mixed with saturated brine and extracted with ethyl acetate, the organic layer was washed with water, and then the solvent was evaporated and the resulting mixture was subjected to a silica gel column chromatography and eluted with ethyl acetate-methanol-28% aqueous ammonia (9:1:0.1, v/v/v) to obtain 900 mg of the title compound.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | methanol | 0.48 ml | CO | CH4O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | trans-4-(2,5-dimethylpiperazin-1-yl)-2-fluorobenzonitrile | 934 mg | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C=C1)F | C13H16FN3
solvent | brine | [Cl-].[Na+].O
product | trans-4-(2,5-Dimethylpiperazin-1-yl)-2-methoxybenzonitrile | 900 mg | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C=C1)OC | C14H19N3O
